US05948803
Methyl 5-(1-cyano-1-hydroxymethyl)-2-methoxybenzoate
To a solution of methyl 5-formyl-2-methoxybenzoate (55.61 g) and zinc iodide (960 mg) in methylene chloride (560 ml) was added trimethylsilyl cyanide (48 ml) in an argon atmosphere under ice cooling and stirring, and the mixture was stirred for 6.5 hours as it was. The reaction mixture was poured into water and methylene chloride layer was separated. After washing with water, it was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved into 1,3-dioxolane (400 ml) and 2 N hydrochloric acid (200 ml) was added, which was allowed to stand for 1.5 hours at room temperature. The reaction liquor was poured into water and extracted with ethyl acetate. This was washed with water, brine and then dried over anhydrous sodium sulfate. This was concentrated to about 200 ml under reduced pressure and the crystals deposited were collected by filtration and dried to obtain 39.41 g (62%) of aimed compound as pale yellow crystals.

reactant | methyl 5-formyl-2-methoxybenzoate | 55.61 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C10H10O4
reactant | trimethylsilyl cyanide | 48 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | water | O | H2O
solvent | methylene chloride | 560 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 960 mg | [I-].[Zn+2].[I-]
product | Methyl 5-(1-cyano-1-hydroxymethyl)-2-methoxybenzoate | 39.41 g, 62% | C(#N)C(O)C=1C=CC(=C(C(=O)OC)C1)OC | C11H11NO4
